US07462619B2
2-[(3-Fluorophenyl)ethynyl]-6-methylpyrazine (520 mg, 2.45 mmol) was dissolved in CH2Cl2 (3 mL), and the resulting solution was treated with HC1 in diethyl ether (2.7 mL of a 1.0M solution, 2.7 mmol). The mixture was sonicated, and the solvent decanted. The remaining solid was dried under high vacuum to afford 2-[(3-fluorophenyl)ethynyl]-6-methylpyrazine hydrochloride (338 mg, 60% yield) as a light yellow solid. M.p. 62-63° C. 1H NMR (CDCl3, 300 MHz) Δ8.73 (s, 1H), 8.57 (s, 1H), 7.54-7.35 (m, 3H), 7.28-7.20 (m, 3H), 2.84 (s, 3H).

reactant | 2-[(3-Fluorophenyl)ethynyl]-6-methylpyrazine | 2.45 mmol, 520 mg | FC=1C=C(C=CC1)C#CC1=NC(=CN=C1)C | C13H9FN2
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[(3-fluorophenyl)ethynyl]-6-methylpyrazine hydrochloride | 338 mg, 60% yield | Cl.FC=1C=C(C=CC1)C#CC1=NC(=CN=C1)C | InChI=1S/C13H9FN2.ClH/c1-10-8-15-9-13(16-10)6-5-11-3-2-4-12(14)7-11;/h2-4,7-9H,1H3;1H
